Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cardiogenic ___, NSTEMI
 
Major Surgical or Invasive Procedure:
- cardiac catheterization with DES to mid-LAD occlusion via R 
radial access
- IABP placement and removal
 
History of Present Illness:
Mr. ___ is a ___ M with HTN, HLD, DMII, and prior MI with 
medical management w/o cath presented to ___ with ___ 
transferred to ___ for catheterization for concern for STEMI. 

Patient has long standing angina pain w/ exertion. On ___ night 
had acute onset b/l non-radiating ___ CP not resolved with SL 
NTG that persisted on ___ morning. In addition had 3 episodes 
of diarrhea and weakness/malaise so he went to ___. No 
orthopnea, PND, ___ edema, palpitations, or SOB. 

In the ED, initial vitals were:  
Exam: Chest pain ___ nonradiating
Labs: Trop I 1.14, WBC 29.6, Hct 38.7, Plt 148, INR 1.25, Na 
127, K+ 4.6, BUN 30/Cr1.86
Imaging: EKG showed ST elevations in AVR (2mm), borderline 
elevation in V1, and otherwise diffuse ST depressions. Bedside 
ECHO w/ septal wall motion abnormalities. CXR w/o any acute 
abnormalities. 
Patient was given: Heparin gtt, Nitro gtt, ASA 324mg, Ticagrelor 
180mg @ 1500, Vanco 125mg PO, ___

Transferred to ___ for cardiac cath. Vitals on transfer were: 
106/64, 86, 100% on 2L, afebrile
Cath lab where he still had ___ pain on heparin and nitro gtt. 
Catheterization showed mid-LAD septal occlusion, diffuse disease 
throughout RCA, complete occlusion of circumflex w/ collaterals, 
and 20% stenosis of L main. DES to mid-LAD occlusion via R 
radial access. Hypotensive throughout so given 750cc IVF. 
Coughing post-procedure with LVEDP 25 so given Lasix 20mg IV. 
Was then hypertensive to 150 so given further Lasix 40mg IV.

Admitted to CCU for hypotension throughout procedure, WBC 30, 
and lack of ___ beds. In the CCU, patient reports no chest pain 
but continues to have productive cough and diarrhea.

Of note, two weeks ago had endoscopy and diagnosed with H 
Pylori. Currently on clarithromycin and amoxicillin. On ___ 
night developed diarrhea. Also had 15lb weight loss in past 4 
months.

 
Past Medical History:
1) HTN
2) HLD
3) DMII
4) CAD s/p MI - medically managed
5) H. Pylori
6) Spinal stenosis
 
Social History:
___
Family History:
Father: possible dilated cardiomyopathy
No family history of early MI, arrhythmia, or sudden cardiac 
death; otherwise non-contributory.  
 
Physical Exam:
On admission:
---------------
VS: afebrile, 160/80, 114, 94% on 15L Non-rebreather
Weight: 69kg
Tele: NSR
Gen: Slightly tachypneic older man audibly wheezing but 
comfortably finishing sentences 
HEENT: EOMI, PERRLA,
NECK: No JVD
CV: Tachycardic, difficult to appreciate heart sounds due to 
significant rhonchi 
LUNGS: b/l rhonchi throughout w/ mild end expiratory wheezing 
and R base crackles
ABD: Soft, Non-tender, non-distended
EXT: 2+ L radial pulses, R arm w/ band in place and normal 
motor/sensory function intact distally, RLE non-palpable DP but 
dopplerable, 1+ LLE DP. b/l ___ slightly cold but normal 
sensation w/ full motor strength and ROM
SKIN: No rashes or chronic edematous changes
NEURO: Alert and attentive, AOX3, Moving all extremities

At discharge:
--------------
Weight:  63.7kg (63.4) 
I/O: 980/800
T 98.4 BP 123/68 (102-133/62-87) P 86 (71-100) RR 20 O2 99% RA   
 
Gen: awake, alert, oriented to self, date, hospital
HEENT: EOMI, PERRLA,
NECK: No JVD
CV: Tachycardic, difficult to appreciate heart sounds 
LUNGS:  Bibasilar crackles
ABD: Soft, Non-tender, non-distended
EXT: 2+ b/l radial pulses, R arm  normal motor/sensory function 
intact distally, RLE non-palpable DP but dopplerable, trace 
edema b/l. b/l ___ slightly cold but normal sensation w/ full 
motor strength and ROM
SKIN: No rashes or chronic edematous changes
NEURO: Alert and attentive, AOX3, Moving all extremities

 
Pertinent Results:
Labs on Admission:
-------------------
___ 09:23PM   WBC-36.8* RBC-4.40* HGB-14.0 HCT-40.6 MCV-92 
MCH-31.8 MCHC-34.5 RDW-12.5 RDWSD-41.8
___ 09:23PM   PLT SMR-NORMAL PLT COUNT-176
___ 09:23PM   NEUTS-81* BANDS-10* LYMPHS-3* MONOS-6 EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-33.49* AbsLymp-1.10* 
AbsMono-2.21* AbsEos-0.00* AbsBaso-0.00*
___ 09:23PM   ___ PTT-49.6* ___
___ 09:23PM   GLUCOSE-264* UREA N-30* CREAT-1.4* 
SODIUM-129* POTASSIUM-4.1 CHLORIDE-96 TOTAL CO2-14* ANION 
GAP-23*
___ 09:23PM   CALCIUM-8.2* PHOSPHATE-3.0 MAGNESIUM-1.7 
CHOLEST-157
___ 09:23PM   %HbA1c-5.9 eAG-123
___ 09:23PM   CK-MB-44* cTropnT-0.69*
___ 09:23PM   TRIGLYCER-90 HDL CHOL-42 CHOL/HDL-3.7 
LDL(CALC)-97
___ 09:23PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL BURR-1+

Labs at Discharge:
-------------------
___ 05:50AM BLOOD WBC-11.2* RBC-3.59* Hgb-11.2* Hct-34.7* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-13.2 RDWSD-46.7* Plt ___
___ 05:50AM BLOOD Neuts-76* Bands-0 Lymphs-16* Monos-5 
Eos-2 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-8.51* 
AbsLymp-1.79 AbsMono-0.56 AbsEos-0.22 AbsBaso-0.00*
___ 05:50AM BLOOD ___ PTT-27.3 ___
___ 05:50AM BLOOD Glucose-165* UreaN-43* Creat-1.1 Na-136 
K-4.3 Cl-103 HCO3-22 AnGap-15
___ 05:50AM BLOOD ALT-38 AST-32 LD(LDH)-481* AlkPhos-99 
TotBili-0.4
___ 05:50AM BLOOD Albumin-3.3* Calcium-8.4 Phos-3.6 Mg-2.4

Relevant Imaging:
-----------------
TTE ___:
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses and 
cavity size are normal. Overall left ventricular systolic 
function is moderately depressed (LVEF= ? 35-40% - assessment 
limited by suboptimal image quality and significant beat to beat 
variability). There is hypokinesis of the mid-distal LV segments 
and apex. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The number of aortic valve 
leaflets cannot be determined. There is mild aortic valve 
stenosis (valve area 1.2-1.9cm2). No aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The pulmonary artery systolic pressure 
could not be determined. There is a trivial/physiologic 
pericardial effusion. 

Compared with the prior focused study (images reviewed) of 
___, left ventricular systolic function is probably 
similar, although suboptimal image quality of both studies 
precludes definite comparison.  

___ CXR
 
IMPRESSION:  
  
Generalized improvement in both lungs is probably due to 
decrease in pulmonary 
edema, now mild, and decrease in previous moderate right pleural 
effusion.  
There is still substantial consolidation in the right upper lobe 
probably 
pneumonia but the bilateral lower lobe components have improved. 
 Heart size 
top-normal.  No pneumothorax. 

MICRO
========
FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

___ 12:53 pm SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   BUDDING YEAST. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Preliminary): 
      Further incubation required to determine the presence or 
absence of
      commensal respiratory flora. 
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Mr. ___ is a ___ M w/ HTN, HLD, DMII, and old MI transferred 
from ___ w/ NSTEMI w/ diffuse 3 vessel disease s/p DES to 
mid-LAD occlusion found to have severe Cdiff.

ACTIVE ISSUES
==============
# NSTEMI 
NSTEMI based on STE aVR and V1 but o/w ST depressions w/ 
significant multi vessel disease but significant stenosis in LAD 
s/p DES that occluded diagnonal. Repeat cath unchanged. He was 
started on plavix, atorvastatin, ACE-I, and metoprolol. Echo 
showed LVEF 35-40% with hypokinesis of mid-distal LV segments 
and apex. He was started on warfarin for his hypokinetic LV as 
well as his atrial fibrillation as discussed below.

# ___
Possibly mixed cardiogenic/distributive given mixed venous O2 
65%, CI 2.1, PCWP 25. He initially required pressors and balloon 
pump and was then successfully weaned off both. He remained 
hemodynamically stable during rest of hospital course. 

# Atrial Fibrillation
Patient with a reported history of paroxysmal afib per his PCP 
for which he was maintained on digoxin as well as aspirin 325mg 
PO daily prior to admission.  He was found to be in atrial 
fibrillation during admission and the decision was made to 
anticoagulate with Coumadin.  He was continued on home dose 
digoxin.  His home dose aspirin was decreased as discussed above 
with initiation of Coumadin.

# Hematuria: 
Likely traumatic in setting of systemic anticoagulation, as 
patient pulled at ___. Cytology was negative. He will followup 
outpatient with urology.

# Dyspnea: 
Patient had acute episodes of dyspnea.  This was mainly 
attributed to pulmonary edema and improved with diruesis.  
Additionally, CXR showed possible consolidation of RUL, 
concerning for aspiration pneumonia. However, treatment was 
deferred as he had no other focal signs of infectious pna.  He 
did have sputum cultures which grew Klebsiella pneumonia but on 
discussion with ID, felt this did not warrant any treatment as 
he was asymptomatic.  He was discharged on po lasix 20 mg daily 
with next electrolytes to be checked ___. 
 
# C diff, severe: 
Had loose stool in setting of antibiotic tx for Hpylori 
(initiated outpatient). Given WBC >15, ___, age >___ treated as 
severe. Patient was started on vancomycin 125mg PO qid for 14 
day course (day ___, last day ___. 
 
# GASTROESOPHAGEAL REFLUX DISEASE (GERD): 
Endoscopy confirmed H Pylori treated with PPI + 
clarithromycin/amoxicillin since ___ for 14 days. Omeprazole 
was continued. Antibiotics held in setting of c.diff infection. 

# Delirium: 
Patient with frequent sundowning during hospitalization 
requiring Seroquel po.

CHRONIC ISSUES
===============
# Spinal Stenosis: Continued gabapentin, d/ced naproxen.  Did 
not complain of pain throughout hospital course.  Explained he 
should not take any more NSAIDS in setting of recent ACS and now 
on Coumadin, Plavix and asa. 
# DM: maintained on ISS during admission and discharged on home 
glipizide and metformin
# HTN: Home dose metoprolol uptitrated.  Home dose lisinopril 
decreased.  Home dose imdur discontinued.
# HLD: Transitioned home dose simvastatin to atorvastatin

TRANSITIONAL ISSUES
=====================
- Discharge weight: 63.7kg 
- patient will require urology followup given hematuria during 
admission.  Urine cytology negative.
- patient will need to be treated for hpylori once he completes 
a course of PO Vancomycin for Severe CDiff
- Please check electrolytes on ___ on lasix
- Coumadin initiated given atrial fibrillation, ASA decreased 
from 325 mg to 81 mg daily
- Started on Plavix given recent stent placement, atorvastatin 
80 mg (stopped simvastatin), and Lasix 20 mg po daily
- Home metoprolol was increased from 25 mg XL to 50 mg XL daily, 
lisinopril decreased to 2.5 mg po daily and home imdur was 
discontinued
- patient will need to continue a 14 day course of PO Vanc (day 
___- ___ last day ___ for cdiff infection
- Patient instructed to not take any NSAIDS
- SLP treatment at rehab for pharyngeal strengthening exercises
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Naproxen 500 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. GlipiZIDE 2.5 mg PO BID 
6. Simvastatin 40 mg PO QPM 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Lisinopril 10 mg PO DAILY 
9. Digoxin 0.125 mg PO DAILY 
10. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Digoxin 0.125 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Warfarin 4 mg PO DAILY16 
6. GlipiZIDE 2.5 mg PO BID 
7. Clopidogrel 75 mg PO DAILY 
8. Omeprazole 20 mg PO BID 
9. Vancomycin Oral Liquid ___ mg PO Q6H 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. Gabapentin 600 mg PO TID 
12. Lisinopril 2.5 mg PO DAILY 
13. Furosemide 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI s/p ___, likely mixed cardiogenic/distributive 
Hematuria
Dyspnea
C. dif, severe
GERD
Delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were experiencing chest 
pain due to a heart attack. In the cath lab you were found to 
have blockage of your arteries, and a stent was placed. We also 
managed your low blood pressure, infectious diarrhea, and trauma 
from foley placement. You responded well. 

Please continue taking your medications as prescribed.  You are 
being started on coumadin.  Please do not take any non-steroidal 
antiinflammatory drugs (NSAIDS) such as ibuprofen, advil, 
motrin, aleve, naproxen.  Please also follow-up with your 
cardiology and PCP appointments as scheduled

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___